US04871841
(G) (S)-N-[3-[[[(3-Amino-2-oxo-1-azetidinyl)carbonyl]amino]-sulfonyl]tetrahydro-2-oxo-1(2H)-pyrimidinyl]-1,4-dihydro-5-hydroxy-4 -oxo-2-pyridinecarboxamide, inner salt
4.95 g (8.57 mmol) (S)-[1-[[[[3-[[(1,4-dihydro-5-hydroxy-4-oxo-2-pyridinyl)-carbonyl]amino]tetrahydro-2-oxo-1(2H)-pyrimidinyl]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]carbamic acid, phenylmethyl ester was dissolved in 50 ml N,N-dimethylformamide. After the addition of 2.5 g palladium on carbon, the mixture was hydrogenated for 1 hour. The catalyst was removed and subsequently the filtrate added dropwise to 500 ml isopropanol. The desired product was filtered off, slurried with either and dried in vacuo. Yield 3.03 g, melting range 160°-220° C. (dec.).

reactant | (S)-[1-[[[[3-[[(1,4-dihydro-5-hydroxy-4-oxo-2-pyridinyl)-carbonyl]amino]tetrahydro-2-oxo-1(2H)-pyrimidinyl]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]carbamic acid, phenylmethyl ester | 8.57 mmol, 4.95 g | OC=1C(C=C(NC1)C(=O)NN1C(N(CCC1)S(=O)(=O)NC(=O)N1C([C@H](C1)NC(OCC1=CC=CC=C1)=O)=O)=O)=O | C22H23N7O10S
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
catalyst | palladium on carbon | 2.5 g | [Pd] | Pd
product | (S)-N-[3-[[[(3-Amino-2-oxo-1-azetidinyl)carbonyl]amino]-sulfonyl]tetrahydro-2-oxo-1(2H)-pyrimidinyl]-1,4-dihydro-5-hydroxy-4 -oxo-2-pyridinecarboxamide | N[C@@H]1C(N(C1)C(=O)NS(=O)(=O)N1C(N(CCC1)NC(=O)C=1NC=C(C(C1)=O)O)=O)=O | C14H17N7O8S
